US04766147
169 mg (0.5 mmole) of 4-octyl-5-(6-carboxyhexylidene)-3-hydroxycyclopentanone was dissolved in 3 ml of tetrahydrofuran, and ml of 0.5N hydrochloric acid was added. The mixture was stirred at room temperature for 4 days. A saturated aqueous solution of sodium chloride was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The dried product was filtered, concentrated, and purified by preparative silica gel-thin-layer chromatography to give 12 mg (0.35 mmole; yield 70%) of 4-octyl-5-(6-carboxyhexylidene)-2-cyclopentanone. The resulting compound had the following spectral data.

reactant | 4-octyl-5-(6-carboxyhexylidene)-3-hydroxycyclopentanone | 0.5 mmole, 169 mg | C(CCCCCCC)C1C(CC(C1=CCCCCCC(=O)O)=O)O | C20H34O4
reactant | hydrochloric acid | 0.5N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4-octyl-5-(6-carboxyhexylidene)-2-cyclopentanone | 0.35 mmole, 12 mg, yield 70% | C(CCCCCCC)C1CC(CC1=CCCCCCC(=O)O)=O | C20H34O3
